US08629137B2
Step 1: 6-(6-chloro-pyrimidine-4-carbonyl)-3H-benzoxazol-2-one
3.93 g (22.2 mmol) 6-chloropyrimidine-4-carboxylic acid chloride, 3.00 g (22.2 mmol) 2-benzoxazolinone and 14.8 g (111 mmol) aluminium trichloride were combined and heated for 3 h to 130° C. Then the mixture was combined with ice water and EtOAc, the solid was suction filtered and the phases were separated. The aqueous phase was extracted twice with EtOAc, the organic phases were combined, dried and evaporated down. The residue was triturated in DIPE, suction filtered and dried.

reactant | 6-chloropyrimidine-4-carboxylic acid chloride | 22.2 mmol, 3.93 g | ClC1=CC(=NC=N1)C(=O)Cl | C5H2Cl2N2O
reactant | 2-benzoxazolinone | 22.2 mmol, 3.00 g | O1C(NC2=C1C=CC=C2)=O | C7H5NO2
reactant | aluminium trichloride | 111 mmol, 14.8 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(6-chloro-pyrimidine-4-carbonyl)-3H-benzoxazol-2-one | ClC1=CC(=NC=N1)C(=O)C1=CC2=C(NC(O2)=O)C=C1 | C12H6ClN3O3
